US07345059B2
A) 1-(4-Chlorophenyl)-2-(2,4-dichlorophenyl)ethanone
32 g of LiHMDS are placed in 245 ml of THF at 0° C., and 40 g of (4-chlorophenyl) ((trimethylsilyl)oxy)acetonitrile are added slowly at −78° C., followed by 32.64 g of 2,4-dichloro-1-(chloromethyl)benzene. The temperature is allowed to return to AT overnight, and the reaction is then hydrolyzed with 170 ml of a 3N HCl solution, with gases being trapped in a solution of KOH (4N). After separation by settling out, the organic phase is evaporated, then taken up in DCM and agitated for 1 hour with 170 ml of NaOH (2N). The DCM is evaporated off and the expected compound is then crystallized from pentane. 38.6 g are obtained, Mp=119° C.

reactant | LiHMDS | 32 g | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | (4-chlorophenyl) ((trimethylsilyl)oxy)acetonitrile | 40 g | ClC1=CC=C(C=C1)C(C#N)O[Si](C)(C)C | C11H14ClNOSi
reactant | 2,4-dichloro-1-(chloromethyl)benzene | 32.64 g | ClC1=C(C=CC(=C1)Cl)CCl | C7H5Cl3
reactant | HCl | 3N | Cl | ClH
reactant | KOH | 4N | [OH-].[K+]
solvent | THF | 245 ml | C1CCOC1 | C4H8O
product | 1-(4-Chlorophenyl)-2-(2,4-dichlorophenyl)ethanone | ClC1=CC=C(C=C1)C(CC1=C(C=C(C=C1)Cl)Cl)=O | C14H9Cl3O
